US06274579B1
The racemate of the morpholinol metabolite of bupropion hydrochloride ((+/−)-(2R*,3R*)-2-(3-chlorophenyl)-3,5,5-trimethyl-2-morpholinol hydrochloride) may be synthesized by the following process. To 3′-chloropropiophenone (10.0 g, 0.06 mol) in dioxane (50 mL) was added a solution of dioxane dibromide (14.9 g, 0.06 mol) in dioxane (50 mL). The reaction mixture was stirred for 2h at ambient temperature and poured into a mixture of ice and water (500 mL). The mixture was extracted several times with methylene chloride. The combined extracts were dried (Na2SO4) and concentrated in vacuo to give 14.8 g (85%) of 2-bromo-3′-chloropropiophenone as a pale yellow oil. This was used without further purification. NMR (300 Mhz, CDCl3); δ 7.99 (m, 1H), 7.90 (d, 1H), 7.57 (d, 1H), 7.44 (t, 1H), 5.22 (q, 1H), 1.91 (t, 3H).

reactant | morpholinol | N1(CCOCC1)O | C4H9NO2
reactant | bupropion hydrochloride | CC(C(=O)C=1C=CC=C(C1)Cl)NC(C)(C)C.Cl
reactant | 3′-chloropropiophenone | 0.06 mol, 10.0 g | ClC=1C=C(C=CC1)C(CC)=O | C9H9ClO
reactant | dioxane dibromide | 0.06 mol, 14.9 g | [Br-].[Br-].O1CCOCC1
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 500 mL | O | H2O
product | 2-bromo-3′-chloropropiophenone | 14.8 g, 85% | BrC(C(=O)C1=CC(=CC=C1)Cl)C | C9H8BrClO
